US04952397
1-(2-Mercaptoethyl)-4-sulfomethylpyridinium hydroxide, inner salt
A solution of silver nitrate (1.31 g, 7.68 mmol) in water (4 ml) was added to a stirred solution of sodium 4-pyridylmethylsulfonate (1.50 g, 7.68 mmol) in water (15 ml). The resulting hazy solution was treated with ethylene sulfide (0.51 ml, 8.58 mmol) added dropwise over 2 minutes. The resulting gummy mixture was let stand at room temperature 30 minutes and the supernatant decanted. The residue was mixed with water (10 ml) and vigorously bubbled with hydrogen sulfide for 10 minutes. The mixture was vigorously stirred an additional 1 hour and the silver sulfide precipitate removed by centrifugation. The supernatant was concentrated under vacuum to ca. 5 ml and charged onto a column of Dowex 50W-X4 (hydrogen form, 200-400 mesh, 1.5×33 cm). The column was eluted with water at 6.0 ml fractions/2.0 minutes. Fractions 19 to 27 were combined and evaporated under vacuum to an off-white solid. The solid was mixed with a few mls of methanol and filtered to afford the title compound as an off-white solid (303 mg).

reactant | sodium 4-pyridylmethylsulfonate | 7.68 mmol, 1.50 g | N1=CC=C(C=C1)CS(=O)(=O)[O-].[Na+]
reactant | ethylene sulfide | 8.58 mmol, 0.51 ml | C1CS1 | C2H4S
solvent | water | 4 ml | O | H2O
solvent | water | 15 ml | O | H2O
catalyst | silver nitrate | 7.68 mmol, 1.31 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 10 ml | O | H2O
product | 1-(2-Mercaptoethyl)-4-sulfomethylpyridinium hydroxide | 303 mg | [OH-].SCC[N+]1=CC=C(C=C1)CS(=O)(=O)O | InChI=1S/C8H11NO3S2.H2O/c10-14(11,12)7-8-1-3-9(4-2-8)5-6-13;/h1-4H,5-7H2,(H-,10,11,12,13);1H2
